US05770586
VII. Synthesis of 2-pyrindine-7-carboxylic acid, methyl ester
7-Hydroxy-8-isoquinolinediazonium chloride (0.50 g, 2.4 mmol) and sodium bicarbonate (302 mg, 3.6 mmol) in anhydrous methanol (650 ml) is irradiated with a 275 watt sunlamp at 0° C. for 3 hours. The reaction mixture is evaporated to dryness under vacuum. The crude residue is dissolved in water and the product is extracted in methylene chloride. The combined organic extracts are dried over magnesium sulfate, filtered and concentrated under reduced pressure to provide the product as an orange solid (210 mg) in 50% yield.

reactant | 7-Hydroxy-8-isoquinolinediazonium chloride | 2.4 mmol, 0.50 g | [Cl-].OC1=CC=C2C=CN=CC2=C1[N+]#N
reactant | sodium bicarbonate | 3.6 mmol, 302 mg | C([O-])(O)=O.[Na+]
reactant | methanol | 650 ml | CO | CH4O
product | 2-pyrindine-7-carboxylic acid, methyl ester | 210 mg, 50% yield | C=1NC=CC2=CC=C(C12)C(=O)OC | C10H9NO2
